US07842701B2
1-(4-methoxybenzyl)-2,4-dioxo-1,2,3,4-tetrahydroquinoline-3-carbonitrile
To a solution of ethyl cyanoacetate (7.9 ml) in N,N-dimethylacetamide (150 ml) was added sodium hydride (an oily, about 66%, 3.0 g), and added a solution of 1-(4-methoxybenzyl)2H-3,1-benzoxazine-2,4(1H)-dione (21.0 g) in N,N-dimethylacetamide (50 ml), stirred at 120° C. for 19 hours. After cooling, the reaction mixture was concentrated under reduced pressure. Water was added to the residue and the mixture was washed with ether. The aqueous layer was acidified by adding 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water, and dried to obtain the target compound (8.1 g).

reactant | ethyl cyanoacetate | 7.9 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-(4-methoxybenzyl)2H-3,1-benzoxazine-2,4(1H)-dione | 21.0 g | COC1=CC=C(CN2C(OC(C3=C2C=CC=C3)=O)=O)C=C1 | C16H13NO4
solvent | N,N-dimethylacetamide | 150 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 50 ml | CN(C(C)=O)C | C4H9NO
product | 1-(4-methoxybenzyl)-2,4-dioxo-1,2,3,4-tetrahydroquinoline-3-carbonitrile | 8.1 g | COC1=CC=C(CN2C(C(C(C3=CC=CC=C23)=O)C#N)=O)C=C1 | C18H14N2O3
